Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]=[C:11]([H:12])[H:13].[O:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-0.492417672618
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.02105736732
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-2.39175829945
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[H:8].[H:4],3.93312561044
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][H:8],4.435414152219999
[H:1][C:2]([H:3])=[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.96594133836
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8].[O:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-1.61322793462
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[O:1],8.41721420885
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],4.30481805368
[H:1][C:2]([H:3])=[C:4][C:11]([H:12])([H:13])[H:14].[O:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.38895734553
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10],7.45823045
[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[O:8]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.88716057506
[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.61492405717
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]=[C:4](/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:5],2.88145137232
[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])[H:7])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-3.75150494543
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.98256790487
[O:1][C:2][C:3].[O:4]=[C:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8],0.3192486800199999
[C:1][C:2]1([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([H:3])[C@@:10]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15],0.200863310581
[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[H:9],-1.71287156921
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]([H:7])[C:8]1([H:9])[H:10],-0.16482892977900002
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],7.628597631860001
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-3.75368054378
[C:12][H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13],-7.28517497999
[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.35178074318
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.54593894524
[H:1][O:2][C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.5561054899000002
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.376447536
